US07030118B2
F) (±)-3-Benzyl-5-chloro-2-(cyclopropyl-hydroxy-methyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one
Cyclopropyl magnesium bromide (Boulder Scientific, 0.78 M, 8.92 ml, 6.96 mmol) was added dropwise to a −78° C. solution of 3-benzyl-5-chloro-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-2-carbaldehyde (1.0 g, 3.48 mmol) in CH2Cl2 (20 mL) over 45 min. The reaction mixture was stirred at −78° C. for 30 min, warmed to room temperature and quenched with saturated NH4Cl (100 mL). The reaction mixture was extracted with CHCl3 (3×75 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by reverse phase C-18 chromatography eluting over a 30 minute gradient with 45–90% aqueous methanol with 0.1% TFA to afford the title compound (0.54 g, 48%) as a solid: 1H NMR (DMF-d7) δ 7.68 (m, 1H), 7.26–7.38 (m, 5H), 6.71 (m, 1H), 6.28 (d, 1H, J=6.41 Hz), 5.71 (m, 1H), 5.28 (m, 1H), 3.86 (m, 1H), 1.46 (m, 1H), 0.57–0.59 (m, 1H), 0.38–0.46 (m, 2H), 0.13 (m, 1H); MS (ESI+) 330 (M++H); HRMS (ESI+) calculated: 330.1009 (M++H). found: 330.1000 (M++H).

reactant | Cyclopropyl magnesium bromide | 6.96 mmol, 0.78 M, 8.92 ml | C1(CC1)[Mg]Br
reactant | 3-benzyl-5-chloro-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-2-carbaldehyde | 3.48 mmol, 1.0 g | C(C1=CC=CC=C1)N1C(=NN2C(C1=O)=C(C=C2)Cl)C=O | C14H10ClN3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (±)-3-Benzyl-5-chloro-2-(cyclopropyl-hydroxy-methyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 0.54 g, 48% | C(C1=CC=CC=C1)N1C(=NN2C(C1=O)=C(C=C2)Cl)C(O)C2CC2 | C17H16ClN3O2
